US07615549B2
(c) benzyl {(3R,4R)-4-methyl-1-[3-methyl-4-(3-oxo-morpholin-4-yl)-phenyl]-5-oxo-pyrrolidin-3-yl}-carbamate
Prepared analogously to Example 2c from benzyl {(1R,2R)-1-hydroxymethyl-2-[3-methyl-4-(3-oxo-morpholin-4-yl)-phenylcarbamoyl]-propyl}-carbamate with di-tert.-butyl azodicarboxylate and tributylphosphine in THF and subsequent purification by reversed-phase chromatography.

reactant | benzyl {(1R,2R)-1-hydroxymethyl-2-[3-methyl-4-(3-oxo-morpholin-4-yl)-phenylcarbamoyl]-propyl}-carbamate | OC[C@@H]([C@@H](C)C(NC1=CC(=C(C=C1)N1C(COCC1)=O)C)=O)NC(OCC1=CC=CC=C1)=O | C24H29N3O6
reactant | di-tert.-butyl azodicarboxylate | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
reactant | tributylphosphine | C(CCC)P(CCCC)CCCC | C12H27P
solvent | THF | C1CCOC1 | C4H8O
product | benzyl {(3R,4R)-4-methyl-1-[3-methyl-4-(3-oxo-morpholin-4-yl)-phenyl]-5-oxo-pyrrolidin-3-yl}-carbamate | C[C@@H]1[C@H](CN(C1=O)C1=CC(=C(C=C1)N1C(COCC1)=O)C)NC(OCC1=CC=CC=C1)=O | C24H27N3O5
